US07109216B2
Lithium diisopropyl amide (LDA) (5.25 mL of a 2 M solution in THF, 0.0105 mol) is added dropwise to a cooled solution (−70° C.) of tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate (4.24 gram, 0.010 mol) in anhydrous THF (80 mL) in a nitrogen atmosphere and the resulting mixture is stirred for one hour. A solution of p-toluenesulfonyl cyanide (1.88 gram, 0.011 mol) in anhydrous THF (20 mL) is added dropwise and the resulting red solution is stirred for one hour at −70° C. and then allowed to attain room temperature. Diethyl ether is added and the resulting solution is quenched with water and filtered over hyflo. The organic layer is collected and washed with water, dried over MgSO4, filtered and concentrated in vacuo to give an oil. This oil is purified by column chromatography (dichloromethane, silicagel) to give 3.4 gram of tert-butyl 1-(4-chlorophenyl)-5-cyano-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate. Recrystallisation from diisopropyl ether gave crystalline tert-butyl 1-(4-chlorophenyl)-5-cyano-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate (2.57 gram, 57% yield). Melting point: 210–212° C.

reactant | Lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | 0.010 mol, 4.24 gram | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C20H17Cl3N2O2
reactant | p-toluenesulfonyl cyanide | 0.011 mol, 1.88 gram | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(4-chlorophenyl)-5-cyano-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | 3.4 gram | ClC1=CC=C(C=C1)N1C(=NC(=C1C#N)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C21H16Cl3N3O2
